US06670360B2
(a) Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate
Potassium tert-butoxide (3.94 g, 35.1 mmol) was added to a solution of methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate (5.79 g, 31.9 mmol) and 18-crown-6 (0.41 g, 1.55 mmol) in tetrahydrofuran (130 ml) and the mixture was stirred at room temperature for 1 hour. After dropwise addition over 30 minutes of (1S,2S)-2-methylcyclopropylmethyl bromide (5.71 g, 38.3 mmol) to the reaction mixture at 50° C., the mixture was heated under reflux for 3 hours. Potassium tert-butoxide (0.36 g, 3.22 mmol) and (1S,2S)-2-methylcyclopropylmethyl bromide (0.48 g, 3.21 mmol) was further added to the mixture and this mixture was heated for 1 hour. The reaction mixture was poured into iced water and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to afford the desired compound (8.26 g, 100%) as a pale brown oil.

reactant | Potassium tert-butoxide | 35.1 mmol, 3.94 g | CC(C)([O-])C.[K+]
reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | 31.9 mmol, 5.79 g | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | (1S,2S)-2-methylcyclopropylmethyl bromide | 38.3 mmol, 5.71 g | C[C@@H]1[C@H](C1)CBr | C5H9Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 1.55 mmol, 0.41 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | Potassium tert-butoxide | 3.22 mmol, 0.36 g | CC(C)([O-])C.[K+]
catalyst | (1S,2S)-2-methylcyclopropylmethyl bromide | 3.21 mmol, 0.48 g | C[C@@H]1[C@H](C1)CBr | C5H9Br
product | Methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 8.26 g, 100% | C(=O)C1=C(N(C(=C1C)C)C[C@@H]1[C@H](C1)C)C(=O)OC | C14H19NO3
